US06492403B1
Isopropyl-4-(2-bromoacetyl)-5-methylthiophene-2-carboxylate (84 mg, 0.27 mmol) was allowed to react with 3,4,5-trimethoxyphenylthiourea (66.5 mg) as described in Example 154, step (a) to give 68 mg (48% yield) of isopropyl 5-methyl-4-{2-[(3,4,5-trimethoxyphenyl)amino](1,3-thiazol-4-yl)}thiophene-2-carboxylate hydrobromide. Mass Spectrum (ESI) m/z calcd. For C21H24N2O5S2, 448.56 (M+H), found 449.0.

reactant | Isopropyl-4-(2-bromoacetyl)-5-methylthiophene-2-carboxylate | 0.27 mmol, 84 mg | C(C)(C)OC(=O)C=1SC(=C(C1)C(CBr)=O)C | C11H13BrO3S
reactant | 3,4,5-trimethoxyphenylthiourea | 66.5 mg | COC=1C=C(C=C(C1OC)OC)NC(=S)N | C10H14N2O3S
product | isopropyl 5-methyl-4-{2-[(3,4,5-trimethoxyphenyl)amino](1,3-thiazol-4-yl)}thiophene-2-carboxylate hydrobromide | 68 mg, 48% yield | Br.CC1=C(C=C(S1)C(=O)OC(C)C)C=1N=C(SC1)NC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C21H24N2O5S2.BrH/c1-11(2)28-20(24)18-9-14(12(3)30-18)15-10-29-21(23-15)22-13-7-16(25-4)19(27-6)17(8-13)26-5;/h7-11H,1-6H3,(H,22,23);1H
